US07691882B2
4-(2-Pyridin-2-yl-ethyl)-(2-nitro-ethyl)-benzene
To a mixed tetrahydrofuran-dimethyl sulfoxide (1:1) solution of 4-(2-pyridin-2-yl-ethyl)-((E)-2-nitro-vinyl)-benzene (2.83 g, 11.1 mmol) described in Manufacturing Example 93-1-6 and acetic acid (3 mL) was added sodium borohydride (630 mg, 16.7 mmol) at room temperature while cooling appropriately under nitrogen atmosphere, which was stirred for 15 minutes at room temperature. Water was added dropwise into this reaction mixture at room temperature while cooling appropriately. The reaction mixture was partitioned into water and ethyl acetate. The organic layer was washed with water and saturated aqueous sodium chloride and dried over anhydrous magnesium sulfate, and the solvent was evaporated under a reduced pressure. The residue was purified by NH silica gel column chromatography (ethyl acetate:heptane=1:9 then 2:8) to obtain the title compound (2.11 g, 74%).

reactant | tetrahydrofuran dimethyl sulfoxide | O1CCCC1.CS(=O)C
reactant | 4-(2-pyridin-2-yl-ethyl)-((E)-2-nitro-vinyl)-benzene | 11.1 mmol, 2.83 g | N1=C(C=CC=C1)CCC1=CC=C(C=C1)\C=C\[N+](=O)[O-] | C15H14N2O2
reactant | acetic acid | 3 mL | C(C)(=O)O | C2H4O2
reactant | sodium borohydride | 16.7 mmol, 630 mg | [BH4-].[Na+]
solvent | Water | O | H2O
product | 4-(2-Pyridin-2-yl-ethyl)-(2-nitro-ethyl)-benzene | 2.11 g, 74% | N1=C(C=CC=C1)CCC1=CC=C(C=C1)CC[N+](=O)[O-] | C15H16N2O2
